US07126025B2
Trimethylsilylcrotonate
Pyridine (138 g, 1.74 mol) is added dropwise to a stirred solution of crotonic acid (125 g, 1.45 mol), and chlorotrimethylsilane (189 g 1.74 mol) in ether (1.5 l) at room temperature. The reaction mixture is allowed to stir at room temperature overnight and the precipitate is removed by filtration. The filtrate is concentrated and the residue is distilled under reduced pressure. The product fraction is collected at 58–70° C. (25 mmHg) to give 180 g of the title compound (79%). GC-MS purity is 93.4%, 1HNMR is consistent with the structure.

reactant | Pyridine | 1.74 mol, 138 g | N1=CC=CC=C1 | C5H5N
reactant | crotonic acid | 1.45 mol, 125 g | C(\C=C\C)(=O)O | C4H6O2
reactant | chlorotrimethylsilane | 1.74 mol, 189 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | ether | 1.5 l | CCOCC | C4H10O
product | Trimethylsilylcrotonate | 180 g, 79% | C[Si](C)(C)OC(\C=C\C)=O | C7H14O2Si
